US06683184B2
1-[(2-Ethoxyquinoxalin-3-yl)aminocarbonyl]-4-(3-bromophenyl)piperazine
Phenyl N-(2-ethoxyquinoxalin-3-yl)carbamate and 1-(3-bromophenyl)-piperazine were reacted by the same way with the example 36 to obtain the titled compound.

reactant | Phenyl N-(2-ethoxyquinoxalin-3-yl)carbamate | C(C)OC1=NC2=CC=CC=C2N=C1NC(OC1=CC=CC=C1)=O | C17H15N3O3
reactant | 1-(3-bromophenyl)-piperazine | BrC=1C=C(C=CC1)N1CCNCC1 | C10H13BrN2
product | 1-[(2-Ethoxyquinoxalin-3-yl)aminocarbonyl]-4-(3-bromophenyl)piperazine | yield: 80.6% | C(C)OC1=NC2=CC=CC=C2N=C1NC(=O)N1CCN(CC1)C1=CC(=CC=C1)Br | C21H22BrN5O2
